US08466282B2
Tert-butyl (3S,5R)-3-{(2-methylpropyl){{1-(2-(thiophen-2-yl)ethyl)-1H-benzimidazol-2-yl}carbonyl}amino}-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate
tert-Butyl (3S,5R)-3-{(1H-benzimidazol-2-ylcarbonyl)(2-methylpropyl)amino}-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (150 mg) was dissolved in dimethylformamide (10 ml), 2-(thiophen-2-yl)ethyl methanesulfonate (90 mg) and cesium carbonate (190 mg) were added and the mixture was stirred at 65° C. for 30 min. 2-Thiophen-2-ylethyl methanesulfonate (90 mg) was added, and the mixture was further stirred for 1 hr. The reaction mixture was concentrated under reduced pressure, diluted with water, and extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel chromatography, and a fraction eluted with ethyl acetate-hexane (1:9)-ethyl acetate was concentrated under reduced pressure to give the object product (156 mg).

reactant | tert-Butyl (3S,5R)-3-{(1H-benzimidazol-2-ylcarbonyl)(2-methylpropyl)amino}-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 150 mg | N1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CN(C[C@@H](C2)C(=O)N2CCOCC2)C(=O)OC(C)(C)C)CC(C)C | C27H39N5O5
reactant | 2-(thiophen-2-yl)ethyl methanesulfonate | 90 mg | CS(=O)(=O)OCCC=1SC=CC1 | C7H10O3S2
reactant | cesium carbonate | 190 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-Thiophen-2-ylethyl methanesulfonate | 90 mg | CS(=O)(=O)OCCC=1SC=CC1 | C7H10O3S2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | Tert-butyl (3S,5R)-3-{(2-methylpropyl){{1-(2-(thiophen-2-yl)ethyl)-1H-benzimidazol-2-yl}carbonyl}amino}-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 156 mg | CC(CN([C@@H]1CN(C[C@@H](C1)C(=O)N1CCOCC1)C(=O)OC(C)(C)C)C(=O)C1=NC2=C(N1CCC=1SC=CC1)C=CC=C2)C | C33H45N5O5S
